US08389511B2
tert-Butyl (3R,4R)-3-[{[4-(2-{[(benzyloxy)carbonyl]amino}ethyl)-2,2-dimethyl-3-oxo-7-(trifluoro-methyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(ethyl)amino]-4-phenylpiperidine-1-carboxylate
Using methyl 4-(2-{[(benzyloxy)carbonyl]amino}ethyl)-2,2-dimethyl-3-oxo-7-(trifluoro-methyl)-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate and tert-butyl (3R,4R)-3-(ethylamino)-4-phenylpiperidine-1-carboxylate, the title compound (60.4 mg) was obtained in a similar manner to Reference Example 5.

reactant | methyl 4-(2-{[(benzyloxy)carbonyl]amino}ethyl)-2,2-dimethyl-3-oxo-7-(trifluoro-methyl)-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | C(C1=CC=CC=C1)OC(=O)NCCN1C(C(OC2=C1C=C(C(=C2)C(F)(F)F)C(=O)OC)(C)C)=O | C23H23F3N2O6
reactant | tert-butyl (3R,4R)-3-(ethylamino)-4-phenylpiperidine-1-carboxylate | C(C)N[C@H]1CN(CC[C@@H]1C1=CC=CC=C1)C(=O)OC(C)(C)C | C18H28N2O2
product | tert-Butyl (3R,4R)-3-[{[4-(2-{[(benzyloxy)carbonyl]amino}ethyl)-2,2-dimethyl-3-oxo-7-(trifluoro-methyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(ethyl)amino]-4-phenylpiperidine-1-carboxylate | 60.4 mg | C(C1=CC=CC=C1)OC(=O)NCCN1C(C(OC2=C1C=C(C(=C2)C(F)(F)F)C(=O)N([C@H]2CN(CC[C@@H]2C2=CC=CC=C2)C(=O)OC(C)(C)C)CC)(C)C)=O | C40H47F3N4O7
